* C:\Users\owenr\Documents\EE251\Narrowband.asc
XU1 Vc Vout 0 X2SC2753
R1 N002 Vc 10
R2 Vc 0 10
L1 N002 Vout 11n
C3 N002 Vout 240p
R4 N001 N002 1
V1 N001 0 12
R6 Vout 0 50
V2 Vc 0 SINE(0 0.1 98MEG) AC 0.1 Rser=50
R3 N002 Vout 1.4
.ac dec 100 1k 1G
.lib C:\Users\owenr\Documents\EE251\2SC2753.lib
.backanno
.end
