* C:\Users\owenr\Documents\EE251\Oscillator - Copy - Copy.asc
XU2 N003 N005 N004 X2SC2753
R9 N005 0 3k
V4 N001 0 10
I1 N006 0 PWL(1n 1m 2n 0)
R1 N001 N005 2k
R2 N004 0 1.5k
C1 N005 0 470n
L1 N001 N003 57n
C2 N006 N004 12n
C3 N003 N006 15p
C4 N006 0 40p
R3 N001 N003 400
C5 N003 0 36p
XU1 N001 N002 vout X2SC2753
R5 N001 N002 20k
R6 N002 0 20k
R7 vout 0 4k
C6 N002 N003 900n
.tran 0 5000n 0n
.lib C:\Users\owenr\Documents\EE251\2SC2753.lib
.backanno
.end
