* C:\Users\owenr\Documents\EE251\broadband.asc
RC N001 N003 250
VCC N001 0 10
V2 N005 0 SINE() AC 1
CS N007 N006 100
RF N002 N007 1000
RB1 N007 0 1k
XU1 N003 N007 N004 X2SC2753
RS N006 N005 50
RE 0 N004 3.9
RL P001 0 50
RB2 N003 N002 3.3k
CB N003 N002 100
CL N003 P001 100
.ac dec 1000 5meg 5g
.lib C:/Users/jonathansharir-smith/Desktop/251SPICE/Lab2/narrowband\2SC2753.lib
.backanno
.end
